US09169249B2
3-Hydroxy oxetane (370 mg, 5 mmol, 2 equiv) in THF (15 ml) under argon gas, was cooled to 0° C. Potassium tert-butoxide (617 mg, 5.5 mmol, 2.2 equiv) was added in one portion, and the reaction mixture was stirred for 20 minutes at 0° C. Then 2-fluoro-5-nitrobenzonitrile (415 mg, 2.5 mmol, 1 equiv) was added in one portion, and the reaction mixture was stirred for 10 minutes at 0° C. and allowed to warm up to ambient temperature over 1 hour. The reaction mixture was concentrated, and the residue was taken in DCM and water. The layers were separated, and the organic layer was washed with water (×2), dried over Na2SO4, filtered, and concentrated to provide 5-nitro-2-(oxetan-3-yloxy)benzonitrile (495 mg, 90%) as a brown-yellow solid that was used without further purification.

reactant | 3-Hydroxy oxetane | 5 mmol, 370 mg, 2 equiv | OC1COC1 | C3H6O2
reactant | Potassium tert-butoxide | 5.5 mmol, 617 mg, 2.2 equiv | CC(C)([O-])C.[K+]
reactant | 2-fluoro-5-nitrobenzonitrile | 2.5 mmol, 415 mg, 1 equiv | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-nitro-2-(oxetan-3-yloxy)benzonitrile | 495 mg, 90% | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)OC1COC1 | C10H8N2O4
